US07148042B2
Glyoxal-2′-deoxyguanosine was synthesized from 2′-deoxyuridine and glyoxal-guanine under the following conditions, by using any one of the aforementioned three sets of enzyme solutions and the Bacillus stearothermophilus JTS 859 enzyme solution obtained in Production Example 2. Specifically, 5 mM phosphate buffer (pH 7) containing 30 mM 2′-deoxyuridine, 30 mM glyoxal-guanine, 100 mM boric acid, and 4 mM disodium ethylenediaminetetraacetate was first prepared.

reactant | 2′-deoxyuridine | [C@@H]1(C[C@H](O)[C@@H](CO)O1)N1C(=O)NC(=O)C=C1 | C9H12N2O5
reactant | glyoxal guanine | C(=O)C=O.N1C(N)=NC=2N=CNC2C1=O
reactant | phosphate | 5 mM, pH 7 | P(=O)([O-])([O-])[O-]
reactant | 2′-deoxyuridine | 30 mM | [C@@H]1(C[C@H](O)[C@@H](CO)O1)N1C(=O)NC(=O)C=C1 | C9H12N2O5
reactant | glyoxal guanine | 30 mM | C(=O)C=O.N1C(N)=NC=2N=CNC2C1=O
reactant | boric acid | 100 mM | B(O)(O)O | BH3O3
reactant | disodium ethylenediaminetetraacetate | 4 mM | C(CN(CC(=O)[O-])CC(=O)[O-])N(CC(=O)O)CC(=O)O.[Na+].[Na+]
product | Glyoxal 2′-deoxyguanosine | C(=O)C=O.[C@@H]1(C[C@H](O)[C@@H](CO)O1)N1C=NC=2C(=O)NC(N)=NC12 | InChI=1S/C10H13N5O4.C2H2O2/c11-10-13-8-7(9(18)14-10)12-3-15(8)6-1-4(17)5(2-16)19-6;3-1-2-4/h3-6,16-17H,1-2H2,(H3,11,13,14,18);1-2H/t4-,5+,6+;/m0./s1
